US07309712B2
Preparation 43: Trifluoromethanesulphonic acid 5-methoxy-quinolin-8-yl ester
Trifluoromethanesulphonic anhydride (12 ml, 77.0 mmol) was added slowly, over approximately 5 minutes, to a stirred solution of 5-methoxy-quinolin-8-ol (Syn. Comm. 1997, 27(20), 3573-3579) (1.5 g, 8.6 mmol) and pyridine (5.5 ml, 68.5 mmol) in dichloromethane (34 ml) at 0° C., under nitrogen. The resulting mixture was allowed to warm to room temperature and stirred for a further 16 hours. The mixture was then partitioned between dichloromethane (100 ml) and saturated aqueous ammonium chloride solution (100 ml). The organic extract was further washed with water (100 ml), dried over magnesium sulphate, filtered and concentrated under reduced pressure to provide a crude yellow solid. Purification by flash chromatography on silica gel, eluting with 5% ethyl acetate, 95% pentane, provided the title compound as a pale yellow solid (2.62 g, 99%). 1H-NMR (400 MHz, CDCl3): δ=4.02 (s, 3 H) 6.79 (d, 1 H) 7.50 (m, 2 H) 8.58 (dd, 1 H) 9.03 (dd, 1 H); LRMS: APCl+: m/z 308 [MH+].

reactant | Trifluoromethanesulphonic anhydride | 77.0 mmol, 12 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 5-methoxy-quinolin-8-ol | 8.6 mmol, 1.5 g | COC1=C2C=CC=NC2=C(C=C1)O | C10H9NO2
reactant | pyridine | 68.5 mmol, 5.5 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 34 ml | ClCCl | CH2Cl2
product | Trifluoromethanesulphonic acid 5-methoxy-quinolin-8-yl ester | 2.62 g, 99% | COC1=C2C=CC=NC2=C(C=C1)OS(=O)(=O)C(F)(F)F | C11H8F3NO4S
